US06103719
1.86 of Boc-piperazine were combined with 25 ml of water, 25 ml of methanol, 2.77 g of K2CO3 and 1.5 g of imidazoline-2-sulphonic acid and stirred for 2 days at RT. After dilution with water the mixture was extracted with EE and chromatographed over silica gel. 0.8 g of 1-(imidazolin-2-yl)-4-Boc-piperazine were obtained. This substance was combined with 6.2 ml of DMF and 136 mg of NaH dispersion (60%). After one hour, 0.214 ml of methyl iodide was added dropwise and the reaction mixture was left for three days at RT. It was combined with water, extracted with EE and chromatographed over silica gel. In this way, 0.47 g of 1-(1-methylimidazolin-2-yl)-4-Boc-piperazine was obtained, which was treated with 5 ml of 4N HCl in dioxane at RT. After one hour, the mixture was concentrated by evaporation, stirred with ether and evaporated to dryness in vacuo. 0.38 g of 1-(1-methylimidazolin-2-yl)-piperazine dihydrochloride was thus obtained as a solid substance (yield 15%).

reactant | Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | water | 25 ml | O | H2O
reactant | K2CO3 | 2.77 g | C(=O)([O-])[O-].[K+].[K+]
reactant | imidazoline-2-sulphonic acid | 1.5 g | N1C(=NCC1)S(=O)(=O)O | C3H6N2O3S
solvent | methanol | 25 ml | CO | CH4O
product | 1-(imidazolin-2-yl)-4-Boc-piperazine | 0.8 g | N1C(=NCC1)N1CCN(CC1)C(=O)OC(C)(C)C | C12H22N4O2
